US08957068B2
To (S)-4-(1-aminoethyl)-N-cyclohexyl-2-fluorobenzamide (16 mg, 0.061 mmol) was added (S)-3-(2-chloropyrimidin-4-yl)-4-isopropyloxazolidin-2-one (29.3 mg, 0.121 mmol), NMP (0.5 ml) and Hunig's Base (0.032 ml, 0.182 mmol). The reaction was heated at 125° C. for 4 hours or until done by LCMS. The reaction was let cool, 0.5 ml of NMP added, filtered, purified by prep LC and lyophilized to give 5.6 mg of N-cyclohexyl-2-fluoro-4-((S)-1-(4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-ylamino)ethyl)benzamide as the TFA Salt. LCMS m/z 470.2 (M+H)+, Rt 0.83 min.

reactant | (S)-4-(1-aminoethyl)-N-cyclohexyl-2-fluorobenzamide | 0.061 mmol, 16 mg | N[C@@H](C)C1=CC(=C(C(=O)NC2CCCCC2)C=C1)F | C15H21FN2O
reactant | (S)-3-(2-chloropyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 0.121 mmol, 29.3 mg | ClC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C10H12ClN3O2
reactant | Hunig's Base | 0.182 mmol, 0.032 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
solvent | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
product | N-cyclohexyl-2-fluoro-4-((S)-1-(4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-ylamino)ethyl)benzamide | 5.6 mg | C1(CCCCC1)NC(C1=C(C=C(C=C1)[C@H](C)NC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O)F)=O | C25H32FN5O3
